US05356897
Sodium (2.48 g) was dissolved in dry ethanol (37 ml) under nitrogen atmosphere. To the solution was added 4-fluorophenylacetonitrile (11.65 g) and ethyl isonicotinate (16.41 ml) and the solution was refluxed for 3 hours. The reaction mixture was cooled and poured into water. The ethanol of the mixture was removed under reduced pressure. The resulting aqueous solution was washed with ether and neutralized with diluted hydrochloric acid. The separated solid was collected, washed with water and dried to give 2-(4-fluorophenyl)-3-oxo-3-(pyridin-4-yl)propanenitrile (16.43 g).

reactant | Sodium | 2.48 g | [Na] | Na
reactant | 4-fluorophenylacetonitrile | 11.65 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | ethyl isonicotinate | 16.41 ml | C(C1=CC=NC=C1)(=O)OCC | C8H9NO2
reactant | water | O | H2O
solvent | ethanol | 37 ml | C(C)O | C2H6O
product | 2-(4-fluorophenyl)-3-oxo-3-(pyridin-4-yl)propanenitrile | 16.43 g | FC1=CC=C(C=C1)C(C#N)C(C1=CC=NC=C1)=O | C14H9FN2O
